### PR TITLE
[Merged by Bors] - feat(FieldTheory): add results about minpoly

### PR DESCRIPTION
**Pull request by mariainesdff**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Adjoin.lean [hunk 1]
```diff
@@ -1388,6 +1388,79 @@ end Induction
...
+
+open AlgEquiv
+
+variable {K L : Type _} [Field K] [Field L] [Algebra K L]
+namespace AdjoinRoot
+
+/-- The canonical algebraic equivalence between `AdjoinRoot p` and `AdjoinRoot q`, where
+  the two polynomial `p q : K[X]` are equal.-/
+noncomputable def id_algEquiv {p q : K[X]} (hp : p ≠ 0) (hq : q ≠ 0) (h_eq : p = q) :
+    AdjoinRoot p ≃ₐ[K] AdjoinRoot q :=
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Adjoin.lean:1401]: Maybe you only need `hp` and `h_eq`? Since `hq` can be derived by them. Same as the following results.

File: Mathlib/FieldTheory/Adjoin.lean [hunk 2]
```diff
@@ -1388,6 +1388,79 @@ end Induction
...
+
+open IntermediateField
+
+/-- If `y : L` is a root of `minpoly K x`, then `minpoly K y = minpoly K x`. -/
+theorem eq_of_root (h_alg : Algebra.IsAlgebraic K L) {x y : L}
+    (h_ev : (Polynomial.aeval y) (minpoly K x) = 0) : minpoly K y = minpoly K x :=
+  Polynomial.eq_of_monic_of_associated (monic (isAlgebraic_iff_isIntegral.mp (h_alg _)))
+    (monic (isAlgebraic_iff_isIntegral.mp (h_alg _)))
+    (Irreducible.associated_of_dvd (irreducible (isAlgebraic_iff_isIntegral.mp (h_alg _)))
+      (irreducible (isAlgebraic_iff_isIntegral.mp (h_alg _))) (dvd K y h_ev))
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Adjoin.lean:1438]: Maybe you only need `IsAlgebraic K x` but not the whole `Algebra.IsAlgebraic K L`? Same as the following results.

Also, the `isAlgebraic_iff_isIntegral.mp (h_alg _)` can be rewritten as `(h_alg _).isIntegral` if you like (if you apply my previous suggestion, then it's `h_alg.isIntegral`), it's shorter.

File: Mathlib/FieldTheory/Adjoin.lean [hunk 3]
```diff
@@ -1388,6 +1388,79 @@ end Induction
...
+      (AdjoinRoot.id_algEquiv (ne_zero (isAlgebraic_iff_isIntegral.mp (h_alg _)))
+        (ne_zero (isAlgebraic_iff_isIntegral.mp (h_alg _))) h_mp)
+      (adjoinRootEquivAdjoin K (isAlgebraic_iff_isIntegral.mp (h_alg _))))
+
+/-- `minpoly.algEquiv` sends the generator of `K⟮x⟯` to the generator of `K⟮y⟯`. -/
+theorem algEquiv_apply (h_alg : Algebra.IsAlgebraic K L) {x y : L}
+    (h_mp : minpoly K x = minpoly K y) :
+    algEquiv h_alg h_mp (AdjoinSimple.gen K x) = AdjoinSimple.gen K y := by
+  simp only [algEquiv]
+  rw [trans_apply, ← adjoinRootEquivAdjoin_apply_root K
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Adjoin.lean:1455]:
```suggestion
  rw [algEquiv, trans_apply, ← adjoinRootEquivAdjoin_apply_root K
```
(untested)

File: Mathlib/FieldTheory/Minpoly/Basic.lean [hunk 4]
```diff
@@ -91,6 +91,11 @@ theorem aeval : aeval x (minpoly A x) = 0 := by
   · exact aeval_zero _
 #align minpoly.aeval minpoly.aeval
 
+/-- Given any `σ : L ≃ₐ[K] L` and any `x : L`, the minimal polynomial of `x` vanishes at `σ x`. -/
+@[simp]
+theorem aeval_algEquiv(f : B ≃ₐ[A] B) (x : B) : (Polynomial.aeval (f x)) (minpoly A x) = 0 := by
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Minpoly/Basic.lean:96]:
```suggestion
theorem aeval_algEquiv (f : B ≃ₐ[A] B) (x : B) : (Polynomial.aeval (f x)) (minpoly A x) = 0 := by
```

File: Mathlib/FieldTheory/Adjoin.lean (hunk 2 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/Adjoin.lean:1438]: Good point, thanks!

File: Mathlib/FieldTheory/Adjoin.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean]: You can use `(h_eq ▸ hp)` at the places of `hq` (untested), in this way you don't need that `have`.

Comment (mariainesdff) [reply Mathlib/FieldTheory/Adjoin.lean]: Thanks!

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Adjoin.lean]: Can you split this construction assuming first of all that one polynomial divides the other (of course it won't be an iso)?

File: Mathlib/FieldTheory/Adjoin.lean [hunk 5]
```diff
@@ -1388,6 +1388,74 @@ end Induction
...
+
+open AlgEquiv
+
+variable {K L : Type _} [Field K] [Field L] [Algebra K L]
+namespace AdjoinRoot
+
+/-- The canonical algebraic equivalence between `AdjoinRoot p` and `AdjoinRoot q`, where
+  the two polynomial `p q : K[X]` are equal.-/
+noncomputable def id_algEquiv {p q : K[X]} (hp : p ≠ 0) (h_eq : p = q) :
+    AdjoinRoot p ≃ₐ[K] AdjoinRoot q :=
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Adjoin.lean:1401]: Maybe this should be called `algEquivOfEq`? And the two theorems `id_algEquiv_def'` and `id_algEquiv_def` should be called `coe_algEquivOfEq` and `algEquivOfEq_toAlgHom`?

File: Mathlib/FieldTheory/Adjoin.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean]: > Can you split this construction assuming first of all that one polynomial divides the other (of course it won't be an iso)?

And it can be called `algHomOfDvd` I think.

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Adjoin.lean]: Anyway this file needs to be split... (in another PR)

File: Mathlib/FieldTheory/Minpoly/Basic.lean [hunk 6]
```diff
@@ -91,6 +91,11 @@ theorem aeval : aeval x (minpoly A x) = 0 := by
   · exact aeval_zero _
 #align minpoly.aeval minpoly.aeval
 
+/-- Given any `σ : L ≃ₐ[K] L` and any `x : L`, the minimal polynomial of `x` vanishes at `σ x`. -/
+@[simp]
+theorem aeval_algEquiv (f : B ≃ₐ[A] B) (x : B) : (Polynomial.aeval (f x)) (minpoly A x) = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Minpoly/Basic.lean:96]: There is no need to assume `f` to be an iso here.

File: Mathlib/FieldTheory/Normal.lean [hunk 7]
```diff
@@ -409,3 +409,29 @@ theorem isSolvable_of_isScalarTower [Normal F K₁] [h1 : IsSolvable (K₁ ≃
...
 
 end lift
+
+namespace minpoly
+
+variable {K L : Type _} [Field K] [Field L] [Algebra K L]
+
+open AlgEquiv IntermediateField
+
+/-- If `x : L` is a root of `minpoly K y`, then we can find `σ : L ≃ₐ[K] L)` with `σ x = y`.
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Normal.lean:419]:
```suggestion
/-- If `x : L` is a root of `minpoly K y`, then we can find `(σ : L ≃ₐ[K] L)` with `σ x = y`.
```

File: Mathlib/FieldTheory/Normal.lean [hunk 8]
```diff
@@ -409,3 +409,29 @@ theorem isSolvable_of_isScalarTower [Normal F K₁] [h1 : IsSolvable (K₁ ≃
...
+  That is, `x` and `y` are Galois conjugates. -/
+theorem exists_algEquiv_of_root (hn : Normal K L) {x y : L} (hy : IsAlgebraic K y)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Normal.lean:421]: `Normal` is a class, why not using `[Normal K L]`?

File: Mathlib/FieldTheory/Normal.lean [hunk 9]
```diff
@@ -409,3 +409,29 @@ theorem isSolvable_of_isScalarTower [Normal F K₁] [h1 : IsSolvable (K₁ ≃
...
+    (h_ev : (Polynomial.aeval x) (minpoly K y) = 0) : ∃ σ : L ≃ₐ[K] L, σ x = y := by
+  have hx : IsAlgebraic K x := ⟨minpoly K y, ne_zero hy.isIntegral, h_ev⟩
+  set f : K⟮x⟯ ≃ₐ[K] K⟮y⟯ := algEquiv hx (eq_of_root hy h_ev)
+  have hxy : (liftNormal f L) ((algebraMap (↥K⟮x⟯) L) (AdjoinSimple.gen K x)) = y := by
+    rw [liftNormal_commutes f L, algEquiv_apply, AdjoinSimple.algebraMap_gen K y]
+  exact ⟨(liftNormal f L), hxy⟩
+
+/-- If `x : L` is a root of `minpoly K y`, then we can find `σ : L ≃ₐ[K] L)` with `σ y = x`.
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Normal.lean:429]:
```suggestion
/-- If `x : L` is a root of `minpoly K y`, then we can find `(σ : L ≃ₐ[K] L)` with `σ y = x`.
```

File: Mathlib/FieldTheory/Adjoin.lean (hunk 5 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/Adjoin.lean:1401]: Should it be `algEquivOfEq` or `algEquiv_of_eq`? The second option looks a bit better to me, but I see both patterns in Mathlib.

Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean:1401]: https://leanprover-community.github.io/contribute/naming.html

> All other terms of Types (basically anything else) are in `lowerCamelCase`.

According to naming conventions, it should be called `algEquivOfEq`, since it's an `AlgEquiv` which is a `Type`.

File: Mathlib/FieldTheory/Minpoly/Basic.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/Minpoly/Basic.lean:96]: Thanks! I have replaced this by `aeval_algHom`.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/Adjoin.lean]: Done!

File: Mathlib/FieldTheory/Adjoin.lean (hunk 5 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/Adjoin.lean:1401]: Done!

File: Mathlib/FieldTheory/Adjoin.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/Adjoin.lean]: Maybe it has to be split now, the linter is complaining...

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Adjoin.lean]: You can always add a nolint and take care of this later. Or open a PR that does just the splitting.

Comment (mariainesdff) [reply Mathlib/FieldTheory/Adjoin.lean]: OK, I have added a style exception for now.

File: Mathlib/FieldTheory/Adjoin.lean [hunk 10]
```diff
@@ -1388,6 +1388,118 @@ end Induction
...
+          AlgHom.coe_id, id.def]))
+
+theorem coe_algEquivOfAssociated {p q : K[X]} (hp : p ≠ 0) (hpq : Associated p q) :
+    (algEquivOfAssociated hp hpq).toFun =
+      liftHom p (root q) (by simp only [aeval_eq, mk_eq_zero, hpq.symm.dvd]) :=
+  rfl
+
+
+
+theorem algEquivOfAssociated_toAlgHom {p q : K[X]} (hp : p ≠ 0) (hpq : Associated p q) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Adjoin.lean:1458]:
```suggestion
  rfl

theorem algEquivOfAssociated_toAlgHom {p q : K[X]} (hp : p ≠ 0) (hpq : Associated p q) :
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
